.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 1u

* bias circuit
R1 vcc base 65k
R2 base 0 10k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 800
Re emit 0 70

* bypass capacitor
Cb emit 0 80u


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 100

* output coupling capacitor
Co emit2 out 8u

* load
RL out 0 8

.op
.end

.control

set filetype=ascii
run


set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op
echo  "op_TAB"
print v(coll)
print v(emit2)
print @Rc[i]
print @Q1[ib]
print @Q1[ic]
print @Q2[ie]
print @Q2[ic]

echo  "op_END"



* time analysis
tran 1e-5 1e-2
*plot v(coll)
hardcopy vout.ps v(out)
echo vout_FIG


* frequency analysis
ac dec 10 10 100MEG
*plot vdb(coll)
*plot vp(coll)
hardcopy Gain.ps vdb(out)
echo gain_FIG
meas ac ymax MAX vdb(out) from=1 to=100MEG
meas ac fmax MIN v(out) from=1 to=100MEG

meas ac xeval1 WHEN vdb(out)='ymax-3'
meas ac xeval2 WHEN vdb(out)='ymax-3' Fall=LAST


print abs(fmax/0.01)*(xeval2-xeval1)/xeval1


*plot vdb(out)
*plot vp(out)
*hardcopy vo2f.ps vdb(coll)

*input impedance in kohm
*print all

plot abs(v(in2)[40]/vin#branch[40]/(-1000))
print mag(v(in2)[40]/vin#branch[40]/(-1000))
hardcopy inputimpedance.ps abs(v(in2)/vin#branch)
echo inputimpedance_FIG
*hardcopy ya2.ps abs(v(in2)/vin#branch)/(1000)
*need a different setup to measure output impedance

.endc 

